US03931199
A mixture of 52 g of 7-chloromethyl-5H-[1]benzopyrano[2,3-b]pyridine, 63 g of hexamethylenetetramine, 160 ml of water and 160 ml of acetic acid is stirred under reflux for 3 hours. To the reaction mixture is added 80 ml of concentrated hydrochloric acid, and the whole mixture is refluxed for 20 minutes, then diluted with 200 ml of water, and cooled. The crystalline precipitate is filtered off, washed with water, dried, and then recrystallized from dioxane to give 5H-[1]benzopyrano[2,3-b]pyridine-7-carbaldehyde melting at 171°-173°C.

reactant | 7-chloromethyl-5H-[1]benzopyrano[2,3-b]pyridine | 52 g | ClCC=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C13H10ClNO
reactant | hexamethylenetetramine | 63 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 160 ml | O | H2O
product | 5H-[1]benzopyrano[2,3-b]pyridine-7-carbaldehyde | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C=O | C13H9NO2
